US06552067B2
Analogous to the procedure described for Example 1A, Step B, 5-[3-oxo-4-(3-trifluoromethyl-phenyl)-butyl]-pyrrolidin-2-one (1.37 g, 4.59 mmol) was reduced with NaBH4 (174 mg) at 0° C. over 2 h. Purification by medium pressure chromatography (2% MeOH in CH2Cl2) provided 5-[3-hydroxy-4-(3-trifluoromethyl-phenyl)-butyl]-pyrrolidin-2-one (1.19 g). 1H NMR (CDCl3) δ7.42 (m, 4H), 6.26 (m, 1H), 3.82 (m, 1H), 3.65 (m, 1H), 2.84 (m, 1H), 2.72 (m, 1H), 2.27 (m, 3H), 1.86 (m, 1H), 1.75-1.42 (m, 5H); MS 302.2 (M+1).

reactant | 5-[3-oxo-4-(3-trifluoromethyl-phenyl)-butyl]-pyrrolidin-2-one | 4.59 mmol, 1.37 g | O=C(CCC1CCC(N1)=O)CC1=CC(=CC=C1)C(F)(F)F | C15H16F3NO2
reactant | NaBH4 | 174 mg | [BH4-].[Na+]
product | 5-[3-hydroxy-4-(3-trifluoromethyl-phenyl)-butyl]-pyrrolidin-2-one | 1.19 g | OC(CCC1CCC(N1)=O)CC1=CC(=CC=C1)C(F)(F)F | C15H18F3NO2
